US04959372
Using the method of deprotection with trifluoroacetic acid in anhydrous methylene chloride, described by B. GUTTE and K. B. MERRIFIELD (J. Am. Chem. Soc. 1969, 91, 501), a quantitative yield of (3S)-2-[(S)-Nε -benzyloxycarbonyllysyl]-3-benzyloxycarbonyl-2-azabicyclo[2.2.2]octane is obtained from the (3S)-2-[(S)-Nα -tert-butoxycarbonyl-Nε -benzyloxycarbonyllysyl]-3-benzyloxycarbonyl-2-azabicyclo[2.2.2]octane prepared in the preceding stage.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (3S)-2-[(S)-Nα -tert-butoxycarbonyl-Nε -benzyloxycarbonyllysyl]-3-benzyloxycarbonyl-2-azabicyclo[2.2.2]octane | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1C2CCC([C@H]1C(=O)OCC1=CC=CC=C1)CC2 | C34H45N3O7
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (3S)-2-[(S)-Nε -benzyloxycarbonyllysyl]-3-benzyloxycarbonyl-2-azabicyclo[2.2.2]octane | quantitative yield | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)N1C2CCC([C@H]1C(=O)OCC1=CC=CC=C1)CC2 | C29H37N3O5
